Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
clindamycin / hydrocodone / meperidine / oxycodone / terbinafine 
/ Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Thrombocytopenia
 
Major Surgical or Invasive Procedure:
Bone marrow biopsy of left iliac crest

 
History of Present Illness:
Mr. ___ is a ___ with past medical history notable for 
Mycobacterium avium complex infection, hypertension, and history 
of TIA currently on aspirin who presented to the emergency room 
with new onset thrombocytopenia and mucosal bleeding after 
dental extraction on ___.  The patient reports that he was in 
his usual state of health and underwent a dental extraction on 
___.  The procedure was uncomplicated, but several 
hours after the procedure he developed bleeding from the 
extraction site.  He was reevaluated by his dentist and the 
following day and the next day, ___ and ___, who 
placed sutures and recommended that he return to the clinic for 
further evaluation.  He continued to have ongoing bleeding from 
the gums and therefore was referred to ___ 
emergency room. At ___, his WBC count was 3.5, hemoglobin 
was 11.6, hematocrit was 33.5 and platelets were 9.  His 
creatinine was 0.9. The patient was referred to ___ for 
further evaluation.

Upon arrival to the ED the patient was hemodynamically stable 
and VS were T 98.1, BP 126/77, P 70, RR 16, O2sat 98% on RA.  
His exam was notable for lips with dried blood, upper dentures 
in place with oozing from the gums beneath the dentures. He has 
upper dentures.  He denied any other bleeding. He reported 
bruising easily. Labs were notable for a white count of 3.7, ANC 
1820, hemoglobin 10.9, and platelets 16. Coags were within 
normal limits.  Fibrinogen was 385. BUN was 12 and creatinine 
was 0.9.  Repeat CBC was notable for a white count of 3.4, 
hemoglobin 10.5, and platelets 25. In the ED the patient 
received a unit of platelets and his platelet count increased to 
50.  Hematology was consulted and recommended admission with 
plans to perform a bone marrow biopsy.

For the dental extraction, Mr. ___ was started on 
Azithromycin 250mg.  He took one dose on ___ and a 
second dose on ___.  He denies a prior history of 
bleeding, or any previous history of abnormal blood counts.  He 
has no recent fevers or recent illness. Of note, he did receive 
azithromycin in the setting of his dental procedure.

 
Past Medical History:
-Hypertension
-Mycobacterium avium complex currently on clarithromycin,
ethambutol and rifampin (the patient states that he was started
on this regimen approximately ___ year ago)
-History of TIA approximately ___ years ago currently on aspirin
-History of a retinal surgery at ___ approximately ___ weeks 
prior to arrival
-Depression
-Patient reports having had a colonoscopy within the past few 
years which was notable for polyps.
-Right inguinal surgery several decades ago.
 
Social History:
___
Family History:
Father with multiple sclerosis and morbid obesity
Mother with DM and pancreatic cancer
Brother with history of breast cancer and severe scoliosis 
secondary to trauma.
Nephews with cystic fibrosis
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
============================
VS: T 97.5, BP 126-143/72-78, P 82-83, RR ___, O2sat 96% on RA
GENERAL: Comfortable, alert and oriented x 3  
HEENT: AT/NC, EOMI, mild anisicoria (L 4mm and R 2mm), left 
sclera injected, poor dentition with dried blood on the lips and 
gums, tooth extraction sites packed with clean gauze, no signs 
of active bleeding
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Coarse breath sounds in right lower lobe, other lung 
fields clear to auscultation, no wheezes, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
============================
Objective: T 97.6-98.0, BP 118-140/72-94, P 75-90, RR ___, 
O2sat 95-98% on RA
General: Well appearing, NAD, sitting upright in his chair 
eating  
HEENT: injected left sclera, EOMI, visual acuity intact, no 
active bleeding from oral mucosa, palatal petechiae, minimal 
clear drainage from right nare, left nare clear
Neck: no JVD, no LAD  
CV: RRR, no m/r/g  
Lungs: CTAB, breathing comfortably  
Abdomen: Soft, nontender, nondistended, no HSM appreciated, 
stable bruising on RUQ that was previously noted 
Ext: warm and well perfused, no edema, improving petechial rash 
on the anterior shins, bruising on L upper arm 
Neuro: grossly normal 
 
Pertinent Results:
ADMISSION LABS:
====================
___ 02:05AM BLOOD WBC-3.7* RBC-3.88* Hgb-10.9* Hct-32.3* 
MCV-83 MCH-28.1 MCHC-33.7 RDW-14.4 RDWSD-43.2 Plt Ct-16*
___ 02:05AM BLOOD Neuts-49.6 ___ Monos-16.3* 
Eos-6.0 Baso-1.1* Im ___ AbsNeut-1.82 AbsLymp-0.96* 
AbsMono-0.60 AbsEos-0.22 AbsBaso-0.04
___ 04:34AM BLOOD ___ 02:05AM BLOOD Ret Aut-1.7 Abs Ret-0.07
___ 02:05AM BLOOD Glucose-98 UreaN-12 Creat-0.9 Na-134 
K-4.2 Cl-100 HCO3-23 AnGap-15
___ 02:05AM BLOOD ALT-19 AST-31 LD(LDH)-372* AlkPhos-85 
TotBili-0.5
___ 02:05AM BLOOD Iron-58
___ 01:18PM BLOOD Calcium-8.8 Phos-3.1 Mg-2.1
___ 01:18PM BLOOD Albumin-4.0
___ 02:05AM BLOOD calTIBC-274 VitB12-551 Folate-20 Hapto-87 
Ferritn-183 TRF-211
___ 02:05AM BLOOD HBcAb-Negative
___ 01:18PM BLOOD FreeKap-22.9* ___ Fr K/L-1.0
___ 01:18PM BLOOD HIV Ab-Negative
___ 03:30AM URINE Color-Straw Appear-Clear Sp ___
___ 03:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 03:30AM URINE Hours-RANDOM TotProt-<4
___ 03:30AM URINE U-PEP-NO PROTEIN

OTHER RELEVANT LABS:
=========================
___ 12:37AM BLOOD WBC-3.6* RBC-3.53* Hgb-10.1* Hct-29.3* 
MCV-83 MCH-28.6 MCHC-34.5 RDW-14.3 RDWSD-43.0 Plt Ct-57*
___ 10:30AM BLOOD WBC-3.3* RBC-3.54* Hgb-10.0* Hct-29.9* 
MCV-85 MCH-28.2 MCHC-33.4 RDW-14.5 RDWSD-44.7 Plt Ct-5*
___ 07:25PM BLOOD WBC-6.0# RBC-3.53* Hgb-10.0* Hct-29.9* 
MCV-85 MCH-28.3 MCHC-33.4 RDW-14.6 RDWSD-44.6 Plt Ct-46*#
___ 07:05PM BLOOD WBC-5.8 RBC-3.45* Hgb-9.9* Hct-29.3* 
MCV-85 MCH-28.7 MCHC-33.8 RDW-14.7 RDWSD-44.9 Plt Ct-86*
___ 07:30AM BLOOD Glucose-101* UreaN-9 Creat-0.8 Na-139 
K-3.7 Cl-102 HCO3-24 AnGap-17
___ 06:35AM BLOOD Glucose-101* UreaN-11 Creat-0.8 Na-141 
K-3.8 Cl-104 HCO3-22 AnGap-19
___ 06:30AM BLOOD Glucose-106* UreaN-12 Creat-0.8 Na-139 
K-4.0 Cl-104 HCO3-22 AnGap-17
___ 07:30AM BLOOD Calcium-8.8 Phos-3.0 Mg-2.2
___ 06:35AM BLOOD Calcium-8.6 Phos-3.4 Mg-1.8

URINE CULTURE (Final ___:    < 10,000 CFU/mL.

CMV IgG ANTIBODY (Final ___: POSITIVE FOR CMV IgG ANTIBODY 
BY EIA. 
 11 AU/ML. Reference Range:  Negative < 4 AU/ml, Positive >= 6 
AU/ml. 

CMV IgM ANTIBODY (Final ___: NEGATIVE FOR CMV IgM ANTIBODY 
BY EIA.  

___ VIRUS VCA-IgG AB (Final ___: POSITIVE BY 
CHEMILUMINESCENT IMMUNOASSAY. TEST PERFORMED AT ___. 

___ VIRUS EBNA IgG AB (Final ___:    POSITIVE BY 
EIA. 

___ VIRUS VCA-IgM AB (Final ___: NEGATIVE <1:10 
BY IFA. 

___ 1:00 pm BONE MARROW
FLUID CULTURE (Final ___:    NO GROWTH. 
ACID FAST SMEAR (Final ___: NO ACID FAST BACILLI SEEN ON 
DIRECT SMEAR. 
FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.

Bone marrow biopsy (___): (available after patient's d/c)
==============================================================
Immunophenotyping INTERPRETATION: Non-specific T cell dominant 
lymphoid profile; diagnostic immunophenotypic features of 
involvement by lymphoma or leukemia are not seen in specimen. 
Correlation with clinical findings and morphology (see separate 
pathology report ___-___ is recommended. Flow cytometry 
immunophenotyping may not detect all abnormal populations due to 
topography, sampling or artifacts of sample preparation. 

BONE MARROW ASPIRATE AND CORE BIOPSY:
MILDLY HYPERCELLULAR FOR AGE BONE MARROW WITH 
ERYTHROID-PREDOMINANT
MATURING TRILINEAGE HEMATOPOIESIS AND INCREASED MEGAKARYOCYTES, 
SEE NOTE.
NOTE: No significant dysplasia and no increase in blasts are 
seen. Flow cytometry of marrow aspirate shows non-specific T 
cell dominant profile (see separate complete report ___. 
Cytogenetic analysis of marrow aspirate reveals normal male 
karyotype and no evidence of deletion of 5q31 and monosomy 5, 
deletion of 7q31 and monosomy 7, trisomy 8, and deletion
of 20q12 (see separate complete report CY17-192). Taken 
together, the findings in this biopsy are suggestive of marrow 
response to patient's anemia and thrombocytopenia. Correlation 
with clinical, laboratory, flow cytometry, and cytogenetic 
findings and clinical follow-up are recommended.

Cytogenetics: CYTOGENETIC DIAGNOSIS: 46,XY[20] Normal male 
karyotype.

FISH: NEGATIVE MDS PANEL. No evidence of interphase bone marrow 
cells with the common cytogenetic abnormalities observed in 
myelodysplastic syndrome. These include deletion 5q31 and 
monosomy 5, deletion 7q31 and monosomy 7, trisomy 8, and 
deletion 20q12.

Spleen U/S (___) IMPRESSION: The spleen is at the upper limits 
of normal in size. 

 
Brief Hospital Course:
Mr. ___ is a ___ male with PMH notable for TIA 
currently on aspirin,  history of Mycobacterium avium complex 
infection currently on clarithromycin, rifampin, and ethambutol 
and a history of hypertension, left eye surgery in ___ 
to repair a torn retina and vitreous hemorrhage, who presented 
to the emergency room after a dental procedure with persistent 
gingival bleeding and was found to have mild leukopenia, mild 
normocytic anemia and severe thrombocytopenia.

# Symptomatic thrombocytopenia (likely idiopathic 
thrombocytopenic purpura)
# Pancytopenia: Patient noted to have continual gingival 
bleeding from recent dental extraction site, and an initial 
platelet count of 16. He received 1 unit of platelets with 
initial rise in platelets to 77. Subsequently, his platelet 
count declined to 5, for which he received a second transfusion 
of platelets. Due to the rapid decline in platelets, he was 
started on dexamethasone 40mg PO for a 4-day course with a good 
response for presumptive diagnosis of Immune Thrombocytopenic 
Purpura. A bone marrow biopsy was taken from the left iliac 
crest while Mr. ___ was inpatient, and he is scheduled for 
outpatient follow-up by hematology at ___ for the 
pancytopenia. At the time this discharge summary was signed, 
bone marrow biopsy and flow cytometry resulted with non-specific 
T-cell predominant pattern, marrow MILDLY HYPERCELLULAR FOR AGE 
BONE MARROW WITH ERYTHROID-PREDOMINANT
MATURING TRILINEAGE HEMATOPOIESIS AND MEGAKARYOCYTES, which may 
be reactive to anemia / thrombocytopenia.  
Workup further showed negative HIV and hepatitis serologies, 
negative UPEP, SPEP with mildly elevated free kappa, but a 
normal ratio. B12 and folate were WNL. 

Patient was discharged on 60 mg prednisone indefinitely per 
hematology recommendations. They requested weekly CBCs faxed to 
___ in benign ___ clinic. This information was 
conveyed to patient and his PCP ___. If patient will remain 
on a longer course of steroids, he will need consideration of 
PCP prophylaxis as well and calcium and vitamin D. Steroid 
course to be determined by hematology. 

Laboratory studies are summarized below. 
Negative HIV-Ab, HCV-Ab, HBV-Ab
CMV: IgG +, IgM negative
UPEP: Negative
SPEP: FreeKap 22.9, FreeLam, 21.9 Free K/L 1.0
B12: 551
Folate: 20
Haptoglobin: 87
calTIBC: 274, Ferritin: 183, TRF: 211
Platelets: 135 at discharge
WBC: 6.6 at discharge
Hgb/Hct: 10.7/31.8 at discharge

Transitional Issues:
====================
- Aspirin and Ibuprofen held due to bleeding, can be restarted 
by outpatient providers if platelet count is stable
- Prednisone 60 mg daily indefinitely per hematology recs. 
Hematology to determine steroid course and taper. 
-  If patient will remain on a longer course of steroids, please 
consider PCP prophylaxis as well and calcium and vitamin D 
supplementation.  
- Please recheck CBC at ___ appointment. Please monitor CBC 
weekly and fax results to ___ benign ___ clinic at 
___  
- If platelet count drops, would recheck in 2 days. If 
significant declines noted, can touch base with 
hematology/oncology at this time (Dr. ___ 
___. 
- Heme onc is working on a sooner follow-up appointment for him
- Transfuse for platelets < 10,000, or if there is symptomatic 
bleeding and platelet count < 50,000.
- F/u in ___ clinic to discuss the results of the bone 
marrow biopsy
- Continue MAC antibiotics and follow-up with ID doctor. 
 
Medications on Admission:
1. Clarithromycin 1000 mg PO 3X/WEEK (___) 
2. Ethambutol HCl ___ mg PO 3X/WEEK (___) 
3. Rifampin 600 mg PO 3X/WEEK (___) 
4. Gabapentin 300 mg PO TID 
5. FLUoxetine 80 mg PO DAILY 
6. Losartan Potassium 25 mg PO DAILY 
7. azelastine 137 mcg (0.1 %) nasal BID:PRN 
8. Ibuprofen 400 mg PO DAILY:PRN Pain - Mild 
9. Aspirin 81 mg PO DAILY 
10. BuPROPion XL (Once Daily) 300 mg PO DAILY 

 
Discharge Medications:
1.  Prednisone 60 mg daily 
2.  azelastine 137 mcg (0.1 %) nasal BID:PRN  
3.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
4.  Clarithromycin 1000 mg PO 3X/WEEK (___)  
5.  Ethambutol HCl ___ mg PO 3X/WEEK (___)  
6.  FLUoxetine 80 mg PO DAILY  
7.  Gabapentin 300 mg PO TID  
8.  Losartan Potassium 25 mg PO DAILY  
9.  Rifampin 600 mg PO 3X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Thrombocytopenia
Leukopenia
Anemia
Mycobacterium Avium complex infection

Secondary:
Depression
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

___ were admitted because ___ had bleeding from your gums after 
___ had your teeth removed.  Your labs showed that your 
platelets (cells in the body that help stop bleeding) were low.  
___ were given 2 platelet transfusions.  A bone marrow biopsy 
was also done to look for the cause of your low platelets.  We 
gave ___ a steroid called dexamethasone to help your immune 
system from destroying the platelets. ___ should continue taking 
another steroid called prednisone after ___ leave the hospital 
until told to stop by your hematology doctors.  ___ should stop 
taking your aspirin and ibuprofen because they can increase your 
risk of bleeding.

___ should tell your doctors that ___ have a history of easy 
bleeding due to low platelets.

Please follow-up with your PCP and your hematology doctor after 
___ leave the hospital. ___ should have your blood counts 
rechecked when ___ follow up with your PCP and weekly 
thereafter- these should be faxed to the ___ clinic. We 
scheduled ___ to see a hematologist in ___, but please call 
the number provided for a sooner appointment, should a sooner 
appointment become available. Please continue taking the 
antibiotics for your MAC infection and follow-up with your ID 
doctor. 

Sincerely,

Your ___ Team
 
Followup Instructions:
___